US05348978
a) (R)-3-(Ethylthio)-2-hydroxypropanoic acid
Sodium (0.57 g, 25 mmol) in ethanol (25 ml) was added dropwise to a stirred solution of (R)-2-bromo-3-hydroxypropanoic acid (2.11 g, 12.5 mmol) under nitrogen at -30°. After 30 min the mixture was allowed to warm to room temperature and stirred for a further 1 h. A solution of ethanethiol (1.85 ml, 25 mmol) in sodium ethoxide/ethanol (0.57 g, 25 mmol of sodium in 25 ml ethanol) was added and the mixture stirred overnight. The ethanol was evaporated and the residue dissolved in water. The solution was acidified with hydrochloric acid and extracted with ethyl acetate, the organic extracts were dried (MgSO4) and the solvent evaporated. Chromatography on silica with toluene/acetic acid as eluant gave the sub-title acid (0.79 g).

reactant | Sodium | 25 mmol, 0.57 g | [Na] | Na
reactant | (R)-2-bromo-3-hydroxypropanoic acid | 12.5 mmol, 2.11 g | Br[C@@H](C(=O)O)CO | C3H5BrO3
reactant | ethanethiol | 25 mmol, 1.85 ml | C(C)S | C2H6S
reactant | sodium ethoxide ethanol | 25 mmol, 25 ml, 0.57 g | [O-]CC.[Na+].C(C)O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (R)-3-(Ethylthio)-2-hydroxypropanoic acid | 0.79 g | C(C)SC[C@@H](C(=O)O)O | C5H10O3S
